US04929741
64 ml (0.43 mol) of 1,8-diazabicyclo[5.4.0]undec-7-ene were added to a solution of 26.4 ml (0.43 mol) of propiolic acid in 400 ml of methylene chloride at 25°, where required while cooling with ice. The mixture was stirred at 25° for 2 hours, then 56 ml (415 mmol) of 4-methoxybenzyl chloride were added and the mixture was finally stirred at 25° for a further 2 days. The reaction mixture was washed in succession with 200 ml of saturated sodium hydrogen carbonate solution and twice with 200 ml of water each time. The organic phase was dried over sodium sulphate and concentrated. The residue was purified by flash chromatography on 1000 g of silica gel (elution agent hexane/ethyl acetate 9:1). There was obtained 4-methoxybenzyl propiolate as a colorless oil.

reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.43 mol, 64 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | propiolic acid | 0.43 mol, 26.4 ml | C(C#C)(=O)O | C3H2O2
reactant | 4-methoxybenzyl chloride | 415 mmol, 56 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 4-methoxybenzyl propiolate | C(C#C)(=O)OCC1=CC=C(C=C1)OC | C11H10O3
